US06855820B2
(+/−)-(2R*,3R*)-2-(3-chlorophenyl)-3,5,5-trimethyl-2-morpholinol hydrochloride may be converted back to its free base by the following process. A 3.0 g sample of (+/−)-(2R*,3R*)-2-(3-chlorophenyl)-3,5,5-trimethyl-2-morpholinol hydrochloride was dissolved in water (100 mL) and diethyl ether was added (200 mL). The mixture was chilled in an ice bath and the pH was adjusted to >10 with 1.0N aqueous sodium hydroxide. After stirring for 30 min., the phases were separated and the aqueous phase was extracted with diethyl ether. The combined diethyl ether extracts were dried (Na2SO4) and concentrated in vacuo to give 2.6 g of (+/−)-(2R*,3R*)-2-(3-chlophenyl)-3,5,5-trimethyl-2-morpholinol as a white solid. This was used without further purification for the chiral chromatography described below.

reactant | (+/−)-(2R*,3R*)-2-(3-chlorophenyl)-3,5,5-trimethyl-2-morpholinol hydrochloride | Cl.ClC=1C=C(C=CC1)[C@@]1([C@H](NC(CO1)(C)C)C)O
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | sodium hydroxide | 1.0N | [OH-].[Na+]
solvent | water | 100 mL | O | H2O
product | 3,5,5-trimethyl-2-morpholinol | CC1NC(COC1O)(C)C | C7H15NO2
